US07691882B2
3-(3-(5-Benzyloxy-pyridin-2-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a mixture of 2-(5-benzyloxy-pyridin-2-yl)-N-hydroxy-acetamidine (50 mg, 0.19 mmol) described in Manufacturing Example 127-1-5 and a 5 N hydrochloric acid aqueous solution (1 mL) was added sodium nitrite (20 mg, 0.29 mmol) at 0° C., which was stirred for 20 minutes at 0° C. Sodium hydrogencarbonate and water were added to the reaction mixture at 0° C., which was extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure. To a tetrahydrofuran (3 mL) solution of this residue were added 3-ethynyl-pyridin-2,6-diamine (10 mg, 0.39 mmol) described in Manufacturing Example 13-1-3 and triethylamine (27 μL, 0.19 mmol), which was stirred for 40 minutes at 50° C. under nitrogen atmosphere. Water was added to the reaction mixture at room temperature, which was extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=2:1), and then purified further by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoroacetic acid) to obtain the title compound (4.7 mg, 4.0%) as a ditrifluoroacetic acid salt.

reactant | 2-(5-benzyloxy-pyridin-2-yl)-N-hydroxy-acetamidine | 0.19 mmol, 50 mg | C(C1=CC=CC=C1)OC=1C=CC(=NC1)CC(=N)NO | C14H15N3O2
reactant | hydrochloric acid | 5 N, 1 mL | Cl | ClH
reactant | sodium nitrite | 0.29 mmol, 20 mg | N(=O)[O-].[Na+]
reactant | Sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 3-ethynyl-pyridin-2,6-diamine | 0.39 mmol, 10 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 0.19 mmol, 27 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-(3-(5-Benzyloxy-pyridin-2-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 4.7 mg, 4.0% | C(C1=CC=CC=C1)OC=1C=CC(=NC1)CC1=NOC(=C1)C=1C(=NC(=CC1)N)N | C21H19N5O2
